US07943622B2
Step 5. Synthesis of N-benzyl-4-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)oxazole-5-carboxamide trihydrochloride
4 M HCl in 1,4-dioxane (4 mL, 16 mmol) was added to a solution of tert-butyl 4-(5-(benzylcarbamoyl)-4-methyloxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane. This was concentrated under reduced pressure, yielding 3.6 mg (3%) of the title compound as an off-white solid. LC-MS: RT=4.12 min, [M+H]+=408.7.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(5-(benzylcarbamoyl)-4-methyloxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(O1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1)C | C27H33N5O5
solvent | MeOH | 1 mL | CO | CH4O
product | N-benzyl-4-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)oxazole-5-carboxamide trihydrochloride | 3.6 mg, 3% | Cl.Cl.Cl.C(C1=CC=CC=C1)NC(=O)C1=C(N=C(O1)N1C(CNCC1)COC=1C=NC=CC1)C | InChI=1S/C22H25N5O3.3ClH/c1-16-20(21(28)25-12-17-6-3-2-4-7-17)30-22(26-16)27-11-10-24-13-18(27)15-29-19-8-5-9-23-14-19;;;/h2-9,14,18,24H,10-13,15H2,1H3,(H,25,28);3*1H
